US09085540B2
To a mixture of tert-butyl 4-(2-bromo-4-{[3-carbamoyl-6-(3-nitrophenoxy)pyrazin-2-yl]amino}phenyl)piperazine-1-carboxylate (682 mg) and 1,2-dichloroethane (7 mL) was added trifluoroacetic acid (3 mL) under ice-cooling, and followed by stirring at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, then diluted with chloroform, and neutralized with a 10% aqueous potassium carbonate solution. After extracting with chloroform, the organic phase was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to obtain 3-{[3-bromo-4-(piperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide (523 mg) as a yellow amorphous substance.

reactant | tert-butyl 4-(2-bromo-4-{[3-carbamoyl-6-(3-nitrophenoxy)pyrazin-2-yl]amino}phenyl)piperazine-1-carboxylate | 682 mg | BrC1=C(C=CC(=C1)NC1=NC(=CN=C1C(N)=O)OC1=CC(=CC=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C26H28BrN7O6
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,2-dichloroethane | 7 mL | ClCCCl | C2H4Cl2
product | 3-{[3-bromo-4-(piperazin-1-yl)phenyl]amino}-5-(3-nitrophenoxy)pyrazine-2-carboxamide | 523 mg | BrC=1C=C(C=CC1N1CCNCC1)NC=1C(=NC=C(N1)OC1=CC(=CC=C1)[N+](=O)[O-])C(=O)N | C21H20BrN7O4
